US05002941
2-(4-Methoxymethylthiophenyl]3-(4-pyridyl) 6,7-dihydro[5H]pyrrolo[1,2-a]imidazole
To an ice bath cooled solution containing 1.0 q (3.4mmole) of 2-(4-mercaptophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole prepared as in Example 16 and 0.5 ml (3.6 mmole) of triethylamine in 10ml of methylene chloride is added 0.27 ml (3.5 mmole) of bromomethyl methyl ether. The reaction is allowed to warm to room temperature and stirred at room temperature for several hours. Workup and chromatography in a manner analogous to that outlined in example 18 affords the desired titled compound.

reactant | 2-(4-mercaptophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole | 3.4mmole | SC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2 | C17H15N3S
reactant | triethylamine | 3.6 mmole, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | bromomethyl methyl ether | 3.5 mmole, 0.27 ml | COCBr | C2H5BrO
solvent | methylene chloride | 10ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Methoxymethylthiophenyl]3-(4-pyridyl) 6,7-dihydro[5H]pyrrolo[1,2-a]imidazole | COCSC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2 | C19H19N3OS
